### PR TITLE
[Merged by Bors] - feat(Counterexamples): Euler's sum of powers conjecture

### PR DESCRIPTION
**Pull request by SnirBroshi**
feat(Counterexamples): Euler's sum of powers conjecture

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Counterexamples/EulerSumOfPowers.lean [hunk 1]
```diff
@@ -0,0 +1,345 @@
...
+namespace Counterexample
+
+abbrev sumOfPowersConjectureAux {α β γ : Type*}
+    [Zero α] [Zero β] [Zero γ] [Add γ] [HPow α ℕ γ] [HPow β ℕ γ] :=
+  ∀ (n : ℕ) (a : List α) (b : β),
+  n ≠ 0 → a ≠ ∅ → 0 ∉ a → b ≠ 0 → (a.map (· ^ n)).sum = b ^ n → n ≤ a.length
+
+abbrev sumOfPowersConjecture := @sumOfPowersConjectureAux ℕ ℕ ℕ _ _ _ _ _ _
+
+abbrev sumOfPowersConjectureInt := @sumOfPowersConjectureAux ℤ ℤ ℤ _ _ _ _ _ _
```
Comment (eric-wieser) [inline Counterexamples/EulerSumOfPowers.lean]: These are all `: Prop`s, and so:
* Should have the `: Prop` to make this clear
* Should start with an upper-case `S`.

File: Counterexamples/EulerSumOfPowers.lean [hunk 2]
```diff
@@ -0,0 +1,345 @@
...
+
+https://en.wikipedia.org/wiki/Euler%27s_sum_of_powers_conjecture
+http://euler.free.fr/
+-/
+
+
+namespace Counterexample
+
+abbrev sumOfPowersConjectureAux {α β γ : Type*}
+    [Zero α] [Zero β] [Zero γ] [Add γ] [HPow α ℕ γ] [HPow β ℕ γ] :=
```
Comment (eric-wieser) [inline Counterexamples/EulerSumOfPowers.lean]: I find it very unlikely that Euler stated this question about arbitrary power operators of type `α -> ℕ -> γ`; what would you lose by merging these three types into one type and assumint `Semiring α`?

Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: Also, I'd suggest to call the semiring `R` and make it explicit; then you can write `SumOfPowersConjecture ℕ` and don't need the `abbrev`s below.

Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: Further, note that your version is trivially false for any nontrivial semiring:
```lean
def sumOfPowersConjecture' (R : Type*) [Semiring R] : Prop :=
  ∀ (n : ℕ) (a : List R) (b : R),
  0 ∉ a → b ≠ 0 → (a.map (· ^ n)).sum = b ^ n → n ≤ a.length

example (R : Type*) [Semiring R] [Nontrivial R] : ¬ sumOfPowersConjecture' R := by
  intro h
  have : 2 ≤ 1 := h 2 [1] 1 (by simp) (by norm_num) (by simp)
  omega
```
You are missing a condition like `2 ≤ a.length` (the conditions `n ≠ 0` and `a ≠ ∅` are redundant in your formulation: when `n = 0`, the conclusion is trivially true, and when `a` is empty, the sum will be zero, which is excluded (in reasonable semirings)  by `b ≠ 0`. In any case, in the corrected form, `2 ≤ a.length` implies it-)

Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: Also, I would suggest keeping `n` as a parameter:
```lean
def SumOfPowersConjecture (R : Type*) [Semiring R] (n : ℕ) : Prop :=
  ∀ (a : List R) (b : R),
  2 ≤ a.length → 0 ∉ a → b ≠ 0 → (a.map (· ^ n)).sum = b ^ n → n ≤ a.length
```
(or call it `SumOfPowersConjectureWith` an analogy with FLT)

Then you can state for which `n` you have a counterexample.

Also, you get the more precise statement
```lean
theorem fermatLastTheoremWith_of_sumOfPowersConjecture (R : Type*) [Semiring R] {n : ℕ} (hn : 3 ≤ n) :
    SumOfPowersConjecture R n → FermatLastTheoremWith R n := by
  intro conj a b c ha hb hc hsum
  have : n ≤ 2 := conj [a, b] c (by simp) (by simp [ha.symm, hb.symm]) hc (by simpa)
  omega
```
and
```lean
theorem sumOfPowersConjecture_three_iff_fermatLastTheoremWith (R : Type*) [Semiring R] :
    SumOfPowersConjecture R 3 ↔ FermatLastTheoremWith R 3 := by
  refine ⟨fermatLastTheoremWith_of_sumOfPowersConjecture R (show 3 ≤ 3 by rfl), fun H a b ha ha₀ hb₀ hsum ↦ ?_⟩
  contrapose! hsum
  have : a.length = 2 := by omega
  obtain ⟨x, y, hxy⟩ : ∃ x y, a = [x, y] := List.length_eq_two.mp this
  simp only [hxy, List.mem_cons, List.not_mem_nil, or_false, not_or, ← ne_eq] at ha₀
  simp [hxy, H x y b ha₀.1.symm ha₀.2.symm hb₀]
```
which gives you `SumOfPowersConjecture ℤ 3`.

File: Counterexamples/EulerSumOfPowers.lean [hunk 3]
```diff
@@ -0,0 +1,345 @@
...
+which is the special case of summing 2 nth powers.
+
+https://en.wikipedia.org/wiki/Euler%27s_sum_of_powers_conjecture
+http://euler.free.fr/
+-/
+
+
+namespace Counterexample
+
+abbrev sumOfPowersConjectureAux {α β γ : Type*}
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]: This should have a docstring.

File: Counterexamples/EulerSumOfPowers.lean [hunk 4]
```diff
@@ -0,0 +1,345 @@
...
+through a computer search, disproving the conjecture.
+https://www.ams.org/journals/bull/1966-72-06/S0002-9904-1966-11654-3/S0002-9904-1966-11654-3.pdf
+-/
+theorem sum_of_powers_conjecture_false₀ : ¬sumOfPowersConjecture := by
+  intro conj
+  let n := 5
+  let a := [27, 84, 110, 133]
+  let b := 144
+  have : 5 ≤ 4 := conj n a b (by simp) (by simp [a]) (by simp [a]) (by simp) (by decide)
+  omega
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]:
```suggestion
theorem not_sumOfPowersConjecture_nat_five : ¬ SumOfPowersConjecture ℕ 5 := by
  intro conj
  have : 5 ≤ 4 := conj [27, 84, 110, 133] 144 (by simp) (by decide) (by decide) (by decide)
  omega
```
with the version of `SumOfPowersConjecture` I stated earlier.

**Comment by MichaelStollBayreuth** [comment]
You may want to add
```lean
lemma sumOfPowersConjecture_of_injective {R S : Type*} [Semiring R] [Semiring S] {f : R →+* S}
    (hf : Function.Injective f) {n : ℕ} (h : SumOfPowersConjecture S n) :
    SumOfPowersConjecture R n := by
  have help {x : R} (hx : f x = 0) : x = 0 := hf <| by rwa [map_zero]
  intro a b ha ha₀ hb hsum
  have H : (· ^ n) ∘ f = f ∘ (· ^ n) := by ext; simp
  replace hsum : ((a.map f).map (· ^ n)).sum = f b ^ n := by
    apply_fun f at hsum
    simp only [map_pow, List.map_map, H] at hsum ⊢
    simpa [← hsum] using List.sum_map_hom a (· ^ n) f
  convert h (a.map f) (f b) ?_ ?_ ?_ hsum <;> grind
```

Then the counterexamples actually show that `SumOfPowersConjecture R n` is false for any commutative semiring `R` of characteristic zero and `n = 4` or `n = 5`.

**Comment by MichaelStollBayreuth** [comment]
I don't quite see the value of cataloguing *all* known counterexamples here. I think it is enough to give one couterexample each for `n = 4` and `n = 5` (and `R = ℕ`) (and maybe add some more text to the module docstring that says that more are known and where to find them). Beyond the fact that counterexamples exist, I don't think the specific numbers are interesting in themselves.

**Comment by MichaelStollBayreuth** [comment]
You could also mention in the module docstring that the status of `SumOfPowersConjecture ℕ n` is unknown for `n ≥ 6`.

File: Counterexamples/EulerSumOfPowers.lean (hunk 1 above)
Comment (SnirBroshi) [reply Counterexamples/EulerSumOfPowers.lean]: Done

**Comment by SnirBroshi** [comment]
I've incorporated your suggestions, thank you!

@MichaelStollBayreuth I added you to the list of authors of the file and co-authors of this PR since I think you contributed a lot, thanks! If you prefer otherwise, then tell me and I'll undo it

Regarding having multiple counterexamples for the same `n`, I think their role is similar to having disproven conjectures in mathlib. There are infinitely many possible conjectures, but we document ones with papers written about them.
It's true that the numeric examples have less value than math statements, but I think that there are papers written about new counterexamples because people are trying to figure out the correct statement of such a conjecture, and each counterexample provides some data point.

All the counterexamples are reduced (they use numbers with gcd = 1), and I think none of them are generated using a template (one of the papers found a way to generate infinitely many counterexamples).

**Comment by tb65536** [comment]
> I don't quite see the value of cataloguing _all_ known counterexamples here. I think it is enough to give one couterexample each for `n = 4` and `n = 5` (and `R = ℕ`) (and maybe add some more text to the module docstring that says that more are known and where to find them). Beyond the fact that counterexamples exist, I don't think the specific numbers are interesting in themselves.

I would agree with this. The Lander/Parkin and Elkies results are the most historically significant, but keeping more beyond that doesn't seem to align with the aims of mathlib (in the same way that mathlib tends not to host multiple proofs of a given theorem).

**Comment by tb65536** [comment]
Also, you should resolve any resolved github suggestions. And if you're interested in further discussion on whether to keep the rest of the counterexamples, that should probably be moved to Zulip.

File: Counterexamples/EulerSumOfPowers.lean [hunk 5]
```diff
@@ -0,0 +1,387 @@
...
+abbrev SumOfPowersConjectureFor (n : ℕ) : Prop := SumOfPowersConjectureWith ℕ n
+
+/-- Euler's sum of powers conjecture over the naturals. -/
+abbrev SumOfPowersConjecture : Prop := ∀ n, SumOfPowersConjectureFor n
+
+/-- Euler's sum of powers conjecture over the integers for a given exponent. -/
+abbrev SumOfPowersConjectureIntFor (n : ℕ) : Prop := SumOfPowersConjectureWith ℤ n
+
+/-- Euler's sum of powers conjecture over the integers. -/
+abbrev SumOfPowersConjectureInt : Prop := ∀ n, SumOfPowersConjectureIntFor n
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]: I don't think these are really needed; they don't give much of an abbreviation, and any additional definition increases the cognitive load.

**Comment by MichaelStollBayreuth** [comment]
> @MichaelStollBayreuth I added you to the list of authors of the file and co-authors of this PR since I think you contributed a lot, thanks! If you prefer otherwise, then tell me and I'll undo it

I don't really care much either way.

**Comment by MichaelStollBayreuth** [comment]
> one of the papers found a way to generate infinitely many counterexamples

Formalizing this might be a nice addition to the file.

I still don't see the value of adding a bunch of separate counterexamples for the same statement; I'd just keep the smallest ones in the two cases (as already said, more information can be mentioned in the module doc).

I think it makes sense to distinguish between the following kinds of statement:
1. The conjecture is false (i.e., a counterexample exists, without further specification)
2. The following gives a counterexample to the conjecture: ...
3. There are infinitely many counterexamples (without a concrete construction).
4. The following gives an infinite family of (distinct) counterexamples: ...
In my opinion, what we should aim for is *one* instance of the strongest available form(s) (2 and 3 above are incomparable). (I'd consider adding several if they use sufficiently different methods. But here they all are just a bunch of integers, together with a trivial computation.)

File: Counterexamples/EulerSumOfPowers.lean (hunk 5 above)
Comment (SnirBroshi) [reply Counterexamples/EulerSumOfPowers.lean]: Maybe the integer ones, but the naturals are the conjecture itself. The whole point of this file is to define the statement of the conjecture. FLT splits into the same 3 definitions I have: `FermatLastTheoremWith R n`, `FermatLastTheoremFor n`, `FermatLastTheorem`

**Comment by SnirBroshi** [comment]
I've removed the redundant counterexamples per the common opinion.

> > one of the papers found a way to generate infinitely many counterexamples
>
> Formalizing this might be a nice addition to the file.

It's in [Elkies's paper](https://www.ams.org/journals/mcom/1988-51-184/S0025-5718-1988-0930224-9/S0025-5718-1988-0930224-9.pdf) and it uses elliptic curves, which I'm not sure Mathlib (or I) can handle yet.

File: Counterexamples/EulerSumOfPowers.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: OK; I guess consistency with FLT makes sense here.

**Comment by SnirBroshi** [comment]
-awaiting-author

**Comment by MichaelStollBayreuth** [comment]
> It's in [Elkies's paper](https://www.ams.org/journals/mcom/1988-51-184/S0025-5718-1988-0930224-9/S0025-5718-1988-0930224-9.pdf) and it uses elliptic curves, which I'm not sure Mathlib (or I) can handle yet.

Modulo routine computations (which Lean should be able to handle), this comes down to showing that a certain elliptic curve has infinitely many rational points. This may actually be feasible without much theory (on the minimal Weierstrass model of the curve, the point has denominator divisible by an odd prime; it suffices to show that twice such a point has the same property), but I agree that this is mission creep for the present PR.

Can you mention the fact that Elkies constructs infinitely many counterexamples in the comment referring to Elkies's paper and add a TODO to formalize this?

**Comment by SnirBroshi** [comment]
-awaiting-author

File: Counterexamples/EulerSumOfPowers.lean [hunk 6]
```diff
@@ -0,0 +1,158 @@
...
+We demonstrate the connection with FLT, prove that it's true for `n ≤ 3`,
+and provide counterexamples for `n = 4` and `n = 5`.
+The status of the conjecture for `n ≥ 6` is unknown.
+
+https://en.wikipedia.org/wiki/Euler%27s_sum_of_powers_conjecture
+http://euler.free.fr/
+
+## TODO
+
+* Formalize the Elkies's construction of infinitely many irreducible counterexamples for `n = 4`
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]:
```suggestion
* Formalize the Elkies's construction of infinitely many coprime counterexamples for `n = 4`
```
? I don't know what "irreducible" is supposed to mean here.

File: Counterexamples/EulerSumOfPowers.lean [hunk 7]
```diff
@@ -0,0 +1,158 @@
...
+      |>.mpr fermatLastTheoremThree
+  · omega
+
+/-- Given a ring homomorphism from `R` to `S` with no nontrivial zeros,
+the conjecture over `S` implies the conjecture over `R`. -/
+lemma sumOfPowersConjecture_of_ringHom {R S : Type*} [Semiring R] [Semiring S] {f : R →+* S}
+    (hf : ∀ x, f x = 0 → x = 0) {n : ℕ} (conj : SumOfPowersConjectureWith S n) :
+    SumOfPowersConjectureWith R n := by
+  intro a b ha ha₀ hb hsum
+  convert conj (a.map f) (f b) ?_ ?_ ?_ ?_ <;> try grind
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]: For maintainability, I think it is better to avoid `try` (as I did in my version) by producing the needed form of the last argument first, even though that makes the proof a bit longer.

File: Counterexamples/EulerSumOfPowers.lean [hunk 8]
```diff
@@ -0,0 +1,158 @@
...
+  let a := [27, 84, 110, 133]
+  let b := 144
+  have : 5 ≤ 4 := conj a b (by simp [a]) (by simp [a]) (by simp) (by decide)
+  omega
+
+/--
+The first counterexample for `n = 4` was found by Noam D. Elkies in October 1988.
+https://www.ams.org/journals/mcom/1988-51-184/S0025-5718-1988-0930224-9/S0025-5718-1988-0930224-9.pdf
+In this paper, Elkies constructs infinitely many solutions to `a^4 + b^4 + c^4 = d^4` for coprime
+`a, b, c, d`, which provide infinitely many irreducible counterexamples for the case `n = 4`.
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]:
```suggestion
`a, b, c, d`, which provide infinitely many coprime counterexamples for the case `n = 4`.
```
(see above)

File: Counterexamples/EulerSumOfPowers.lean [hunk 9]
```diff
@@ -0,0 +1,158 @@
...
+The smallest counterexample known for `n = 4` was found a month later by Roger E. Frye:
+`a := [95_800, 217_519, 414_560]`, `b := 422_481`. https://ieeexplore.ieee.org/document/74138
+-/
+theorem sumOfPowersConjectureFor_four_false : ¬SumOfPowersConjectureFor 4 := by
+  intro conj
+  let n := 4
+  let a := [2_682_440, 15_365_639, 18_796_760]
+  let b := 20_615_673
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]:
```suggestion
  let a := [95_800, 217_519, 414_560]
  let b := 422_481
```
I think it makes sense to use the smallest counterexample here.

File: Counterexamples/EulerSumOfPowers.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: E.g.,
```lean
  have h : (· ^ n) ∘ f = f ∘ (· ^ n) := by ext; simp
  replace hsum : ((a.map f).map (· ^ n)).sum = f b ^ n := by
    simp [h, hsum, List.sum_map_hom]
  convert conj (a.map f) (f b) ?_ ?_ ?_ ?_ <;> grind
```

File: Counterexamples/EulerSumOfPowers.lean (hunk 6 above)
Comment (SnirBroshi) [reply Counterexamples/EulerSumOfPowers.lean]: I used "irreducible" because the numbers themselves are coprime and not the polynomial itself. I agree it's weird, but if coprime is understandable here then I agree

File: Counterexamples/EulerSumOfPowers.lean (hunk 7 above)
Comment (SnirBroshi) [reply Counterexamples/EulerSumOfPowers.lean]: Can you explain why `try` hurts maintainability? I removed it here, but I'd like to know for future contributions

**Comment by SnirBroshi** [comment]
-awaiting-author

File: Counterexamples/EulerSumOfPowers.lean [hunk 10]
```diff
@@ -0,0 +1,158 @@
...
+
+/--
+The first counterexample was found by Leon J. Lander and Thomas R. Parkin in 1966
+through a computer search, disproving the conjecture.
+https://www.ams.org/journals/bull/1966-72-06/S0002-9904-1966-11654-3/S0002-9904-1966-11654-3.pdf
+This is also the smallest counterexample for `n = 5`.
+-/
+theorem sumOfPowersConjectureFor_five_false : ¬SumOfPowersConjectureFor 5 := by
+  intro conj
+  let n := 5
```
Comment (eric-wieser) [inline Counterexamples/EulerSumOfPowers.lean]:
```suggestion
```

File: Counterexamples/EulerSumOfPowers.lean [hunk 11]
```diff
@@ -0,0 +1,158 @@
...
+-/
+abbrev ExistsEqualSumsOfLikePowersFor (R : Type*) [Semiring R] (k m n : ℕ) : Prop :=
+  ∃ (x y : List R), (x.length = m) ∧ (y.length = n) ∧ (0 ∉ x) ∧ (0 ∉ y) ∧ (List.Disjoint x y) ∧
+  (x.map (· ^ k)).sum = (y.map (· ^ k)).sum
+
+/-- Euler's sum of powers conjecture for `k` restricts solutions for `(k, m, 1)`. -/
+theorem existsEqualSumsOfLikePowersFor_of_sumOfPowersConjectureWith (R : Type*) [Semiring R] :
+    ∀ k, ∀ m ≥ 2,
+    SumOfPowersConjectureWith R k → ExistsEqualSumsOfLikePowersFor R k m 1 → k ≤ m := by
+  intro k m hm conj ⟨x, y, hx, hy, hx₀, hy₀, hdisj, hsum⟩
```
Comment (eric-wieser) [inline Counterexamples/EulerSumOfPowers.lean]: Perhaos
```suggestion
theorem existsEqualSumsOfLikePowersFor_of_sumOfPowersConjectureWith (R : Type*) [Semiring R]
    (k : ℕ) (m : ℕ) (hm : m ≥ 2) :
    SumOfPowersConjectureWith R k → ExistsEqualSumsOfLikePowersFor R k m 1 → k ≤ m := by
  intro conj ⟨x, y, hx, hy, hx₀, hy₀, hdisj, hsum⟩
```

File: Counterexamples/EulerSumOfPowers.lean [hunk 12]
```diff
@@ -0,0 +1,158 @@
...
+`a := [2_682_440, 15_365_639, 18_796_760]`, `b := 20_615_673`
+https://www.ams.org/journals/mcom/1988-51-184/S0025-5718-1988-0930224-9/S0025-5718-1988-0930224-9.pdf
+In this paper, Elkies constructs infinitely many solutions to `a^4 + b^4 + c^4 = d^4` for coprime
+`a, b, c, d`, which provide infinitely many coprime counterexamples for the case `n = 4`.
+Here we use the smallest counterexample for `n = 4`, which was found a month later by Roger E. Frye
+https://ieeexplore.ieee.org/document/74138
+-/
+theorem sumOfPowersConjectureFor_four_false : ¬SumOfPowersConjectureFor 4 := by
+  intro conj
+  let n := 4
```
Comment (MichaelStollBayreuth) [inline Counterexamples/EulerSumOfPowers.lean]:
```suggestion
```

File: Counterexamples/EulerSumOfPowers.lean (hunk 11 above)
Comment (SnirBroshi) [reply Counterexamples/EulerSumOfPowers.lean]: Why this one in particular? There are plenty of uses of forall and implies in this file and mathlib in general.

**Comment by SnirBroshi** [comment]
-awaiting-author

File: Counterexamples/EulerSumOfPowers.lean (hunk 11 above)
Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: I think the general rule is to prefer assumptions left of the colon if otherwise they are `intro`-ed at the start of the proof.

Comment (MichaelStollBayreuth) [reply Counterexamples/EulerSumOfPowers.lean]: But there may be an argument for leaving binders like `∀ m ≥ 2`.

**Comment by MichaelStollBayreuth** [comment]
I think this is now good to be merged. @eric-wieser any objections?

**Comment by MichaelStollBayreuth** [comment]
As @eric-wieser did not raise any objections:

maintainer merge

**Comment by urkud** [comment]
There is a discussion in the maintainers' channel about this PR. We'll post here when we make a decision. In the meantime, please don't merge it.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
